US05516774
N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]tetrahydrofurane-2-carboxamide
As described for Example 8, 0.500 g of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine is reacted with 0.267 g of tetrahydrofurane-2-carbonyl chloride to give a glass which is crystallized from ethyl acetate to give 0.22 g of crystals, m.p. 208°-214° C.

reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.500 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
reactant | tetrahydrofurane-2-carbonyl chloride | 0.267 g | O1C(CCC1)C(=O)Cl | C5H7ClO2
product | N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]tetrahydrofurane-2-carboxamide | 0.22 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(=O)C1OCCC1 | C24H23N3O3
